US06562846B2
2-[5-(2-Methyl-4,5-diphenyl-imidazol-1-yl)-pentyl]-2-phenyl-malonic acid:
(Scheme 4 (S)) A solution of starting material 2-[5-(2-methyl-4,5-diphenyl-imidazol-1-yl)-pentyl]-2-phenyl-malonic acid diethyl ester (630 mg, 1.17 mmole) in THF (18 ml) and Sodium hydroxide (2N) (8 ml) was let stirred at 80° C. for 18 hrs. The next day, analysis by TLC indicated no significant change in the reaction. The THF solvent was removed by rotorvap. The residue was diluted in Methanol (20 ml). The reaction solution was let stirred under reflux for 2 hrs. Analysis by TLC indicated consumption of starting material. The organic solvent was removed by rotorvap. The residue was diluted with water (20 ml). The aqueous layer was extracted Diethyl Ether (2×20 ml). The organic layers were combined and extracted with Sodium Hydroxide (10%) (2×10 ml). The basic aqueous layers were combined and acidified with Hydrochloric acid (3N) to pH=1, then extracted with dichloromethane (2×20 ml). The organic layers were combined, dried over Sodium Sulfate and filtered. The resultant filtrate was concentrated in vacuo to provide product as a white solid (580 mg, quantitative yield). Mass Spec: 483.54 (MH+).

reactant | 2-[5-(2-methyl-4,5-diphenyl-imidazol-1-yl)-pentyl]-2-phenyl-malonic acid diethyl ester | 1.17 mmole, 630 mg | C(C)OC(C(C(=O)OCC)(C1=CC=CC=C1)CCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C)=O | C34H38N2O4
solvent | THF | 18 ml | C1CCOC1 | C4H8O
solvent | Sodium hydroxide | 2N, 8 ml | [OH-].[Na+]
product | 2-[5-(2-Methyl-4,5-diphenyl-imidazol-1-yl)-pentyl]-2-phenyl-malonic acid | 580 mg, quantitative yield | CC=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)CCCCCC(C(=O)O)(C(=O)O)C1=CC=CC=C1 | C30H30N2O4
